US08030500B2
1-(3-Bromophenyl)-1-(2,6-dimethylpyrimidin-4-yl)-4-fluoro-1H-isoindol-3-amine
The title compound was synthesized as described for Example 35i in 35% yield, starting from of 4-bromo-2,6-dimethylpyrimidine (507 mg, 2.71 mmol) and N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (850 mg, 2.09 mmol). MS (ES+) m/z 411, 413 [M+H]+.

reactant | 4-bromo-2,6-dimethylpyrimidine | 2.71 mmol, 507 mg | BrC1=NC(=NC(=C1)C)C | C6H7BrN2
reactant | N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 2.09 mmol, 850 mg | BrC=1C=C(C=CC1)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C18H16BrFN2OS
product | 1-(3-Bromophenyl)-1-(2,6-dimethylpyrimidin-4-yl)-4-fluoro-1H-isoindol-3-amine | 35% yield | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=NC(=NC(=C1)C)C | C20H16BrFN4
